US07417169B2
Ethyl 4′-(2-hydroxyethoxy)-2-methylbiphenyl-4-carboxylate
A mixture of 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]ethanol (0.2 g), ethyl 4-bromo-3-methyl-benzoic acid (0.276 g), [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) (0.017 g), [1,1′-bis-(diphenylphosphino)ferrocene] (0.013 g) and tripotassium phosphate (0.643 g) in 1,4-dioxane (5 mL) was stirred at 80° C. overnight under an atmosphere of argon. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/2) to afford the title compound (0.136 g).

reactant | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]ethanol | 0.2 g | CC1(OB(OC1(C)C)C1=CC=C(OCCO)C=C1)C | C14H21BO4
reactant | ethyl 4-bromo-3-methyl-benzoic acid | 0.276 g | C(C)C1=C(C(=O)O)C=CC(=C1C)Br | C10H11BrO2
reactant | tripotassium phosphate | 0.643 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Water | O | H2O
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | 0.017 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis-(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 4′-(2-hydroxyethoxy)-2-methylbiphenyl-4-carboxylate | 0.136 g | OCCOC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OCC)C | C18H20O4
